US08217066B2
Synthesis of 1-[4′-(3-Methyl-4-phenethyloxymethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid (Compound 8)
Sodium hydride (60% in mineral oil, 0.027 g, 0.68 mmol) was added to a solution of 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.200 g, 0.45 mmol) and phenethyl alcohol (0.06 mL, 0.45 mmol) in DMF (5 mL). The reaction was stirred at 55° C. overnight, then partitioned between EtOAc and H2O and acidified with 1 N aqueous HCl. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography to give the title compound.

reactant | Sodium hydride | 0.68 mmol, 0.027 g | [H-].[Na+]
reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.45 mmol, 0.200 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | phenethyl alcohol | 0.45 mmol, 0.06 mL | C(CC1=CC=CC=C1)O | C8H10O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[4′-(3-Methyl-4-phenethyloxymethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid | CC1=NOC(=C1COCCC1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C29H27NO4
